US08809267B2
A solution of 1-tert-butoxycarbonylamino-2-(2-methylsulfanylethyl)-cyclopropanecarboxylic acid methyl ester (0.63 g, 2.2 mmol) in 10 mL MeOH was added slowly to a suspension of Oxone (2.0 g, 3.3 mmol) in 10 mL H2O at rt. After 2 h at it, the solvent was removed in vacuo and the residue was taken up in EtOAc and H2O (15 mL each). The aqueous layer was extracted with 3×10 mL EtOAc. The combined organics were washed with brine and dried over anhydrous MgSO4. Following concentration in vacuo, the residue was purified by column chromatography on SiO2 (0→65% EtOAc/hexanes) to produce 1-tert-butoxycarbonylamino-2-(2-methanesulfonylethyl)-cyclopropanecarboxylic acid methyl ester (0.50 g, 71%) as a colorless film. LCMS found 222.0 [(M-Boc)+H]+.

reactant | 1-tert-butoxycarbonylamino-2-(2-methylsulfanylethyl)-cyclopropanecarboxylic acid methyl ester | 2.2 mmol, 0.63 g | COC(=O)C1(C(C1)CCSC)NC(=O)OC(C)(C)C | C13H23NO4S
reactant | Oxone | 3.3 mmol, 2.0 g | OOS(=O)[O-].[K+]
reactant | MeOH | 10 mL | CO | CH4O
solvent | H2O | 10 mL | O | H2O
product | 1-tert-butoxycarbonylamino-2-(2-methanesulfonylethyl)-cyclopropanecarboxylic acid methyl ester | 0.50 g, 71% | COC(=O)C1(C(C1)CCS(=O)(=O)C)NC(=O)OC(C)(C)C | C13H23NO6S
